US09034907B2
2,3-dihydro-7-methyl-3-(3-(1H-imidazol-1-yl)propyl)-2-thioxo-thieno-[3,2-d]pyrimidin-4(1H)-one
The compound was synthesized starting from methyl 3-isothiocyanato4-methylthiophene-2-carboxylate (0.853 g, 4.0 mmol) and 3-(1H-imidazol-1-yl)propan-1-amine (0.5 g, 4.0 mmol) as described above.

reactant | methyl 3-isothiocyanato4-methylthiophene-2-carboxylate | 4.0 mmol, 0.853 g | N(=C=S)C1=C(SC=C1C)C(=O)OC | C8H7NO2S2
reactant | 3-(1H-imidazol-1-yl)propan-1-amine | 4.0 mmol, 0.5 g | N1(C=NC=C1)CCCN | C6H11N3
product | 2,3-dihydro-7-methyl-3-(3-(1H-imidazol-1-yl)propyl)-2-thioxo-thieno-[3,2-d]pyrimidin-4(1H)-one | CC1=CSC2=C1NC(N(C2=O)CCCN2C=NC=C2)=S | C13H14N4OS2
